US04013762
A solution of 10 g of 17β,19-dihydroxyandrost-4-en-3-one which is commerically available and 25 ml of propionic anhydride in 200 ml of pyridine is allowed to stand overnight after which 100 ml of ethanol is added, and the reaction mixture is stirred for one hour. The mixture is then poured into one liter of water and the solid product is collected by filtration. The solid is dissolved in ether, dried over magnesium sulfate, filtered and the solvent removed. The residue is dissolved in hot hexane and allowed to cool yielding 17β,19-bis(1-oxopropoxy)-androst-4-en-3-one. M.P. 82°-84° C.

reactant | 17β,19-dihydroxyandrost-4-en-3-one | 10 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(CO)[C@H]1CC2)=O | C19H28O3
reactant | propionic anhydride | 25 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | water | one liter | O | H2O
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 17β,19-bis(1-oxopropoxy)-androst-4-en-3-one | O=C(CC)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(COC(CC)=O)[C@H]1CC2)=O | C25H36O5
